US07189741B2
This compound was prepared following the procedure described in example 1 (part D) starting with 0.2 g (1 mmol) of 3-piperidin-4-yl-1H-indole and 0.39 g (1.3 mmol) 4-bromo-3-bromomethyl-benzoic acid methyl ester. After ionic exchange purification, 0.196 g (46% of yield) of 4-bromo-3-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid methyl ester were obtained.

reactant | 3-piperidin-4-yl-1H-indole | 1 mmol, 0.2 g | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | 4-bromo-3-bromomethyl-benzoic acid methyl ester | 1.3 mmol, 0.39 g | COC(C1=CC(=C(C=C1)Br)CBr)=O | C9H8Br2O2
product | 4-bromo-3-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid methyl ester | 0.196 g, 46% | COC(C1=CC(=C(C=C1)Br)CN1CCC(CC1)C1=CNC2=CC=CC=C12)=O | C22H23BrN2O2
